US05622982
g) 1-Amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane
A solution of 0.83 g of 1-azido-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane in 4 ml of dry pyridine is stirred under a H2S-atmosphere for 3 hours. The reaction mixture is evaporated, the residue is redissolved in 5 ml of dilute acetic acid (acetic acid/water 1/4) and extracted with ethyl acetate. The combined organic phases are evaporated to give the title product as a yellowish oil.

reactant | 1-azido-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | 0.83 g | N(=[N+]=[N-])C(CN1C=NC=C1)C1=NC=C(C=C1)Cl | C10H9ClN6
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1-Amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | NC(CN1C=NC=C1)C1=NC=C(C=C1)Cl | C10H11ClN4
